US06753429B2
Additional substituents can be added to the naphthol ring by reacting a 6-aminonaphth-1-ol (SM11) with toluene sulfonyl chloride in the manner disclosed above to yield the 6-amino-1-(methylphenylsulfonyloxy)naphthalene (NN). The 6-amino-1-(methylphenylsulfonyloxy)naphthalene (NN) was then reacted with t-butyl nitrite in a solvent, for example at 0° C. followed by a copper (II) halide, for example, copper (II) chloride, to yield the appropriate 6-halo-1-(methylphenylsulfonyloxy)naphthalene (PP). The 6-amino-1-(methylphenylsulfonyloxy)naphthalene (NN) was also reacted with an excess of a copper (II) halide, for example, copper (II) chloride, in a solvent followed by t-butylnitrite in the manner disclosed above to form the appropriate 5,6-dihalo-1 -(methylphenylsulfonyloxy)naphthalene (QQ). The appropriately substituted naphthalene (QQ) or (PP) can then reacted with a base, for example, potassium hydroxide, and an alcohol, for example, ethanol, in a mixture of a solvent, for example, THF, and water to yield the appropriately substituted naphthol (RR), for example 5,6-dichloronaphthol. When the naphthol was a 5,6-dihalonaphthol (RR) it was reacted with either the appropriately substituted benzaldehyde (BB), alcohol (CC), toluene (DD), or hydrochloride (EE) and a borane-pyridine complex under acidic conditions, or a base, for example, sodium hydride or triethylamine, in a solvent, for example DMF, or a phosphine complex, for example n-butylphosphine, and DPAD in a solvent, for example, THF, to form the targeted 1-substitutedalkylthio or alkoxy-4-((5,6-substituted naphth-1-yl)oxyalkyl)benzene (Ia), for example, (2-(4-((5,6-dichloronaphthyloxy)methyl)phenoxy)ethyl)diethylamine.

reactant | 6-aminonaphth-1-ol | NC=1C=C2C=CC=C(C2=CC1)O | C10H9NO
reactant | toluene sulfonyl chloride | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
product | 6-amino-1-(methylphenylsulfonyloxy)naphthalene | NC=1C=C2C=CC=C(C2=CC1)OS(=O)(=O)C1=C(C=CC=C1)C | C17H15NO3S
